simulator lang=spectre
global 0

ahdl_include "../submission/cmp_delay.va"
ahdl_include "../submission/edge_interval_timer.va"

Vvdd (vdd 0) vsource dc=0.9 type=dc
Vgnd (gnd 0) vsource dc=0.0 type=dc
Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=1n delay=100p \
rise=50p fall=50p width=450p
Vvinp (vinp 0) vsource type=pwl wave=[0 0.455 3.9e-9 0.455 4e-9 0.4505 7.9e-9 0.4505 8e-9 0.45005 11.9e-9 0.45005 12e-9 0.450005 16e-9 0.450005]
Vvinn (vinn 0) vsource type=pwl wave=[0 0.445 3.9e-9 0.445 4e-9 0.4495 7.9e-9 0.4495 8e-9 0.44995 11.9e-9 0.44995 12e-9 0.449995 16e-9 0.449995]
IDUT (clk vinn vinp out_n out_p lp_int lm_int gnd vdd) cmp_delay
IEIT (clk out_p delay_ps) edge_interval_timer VTH=0.45

tran tran stop=16n maxstep=10p
save clk vinp vinn out_p out_n lp_int lm_int delay_ps gnd vdd
